Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.91139920341
[C:3][H:4].[O:1]=[O:2]>>[O:1][O:2][C:3][H:4],-3.41912391
[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.20131195936
[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.03165286304
[H:1][C:2]([H:3])([H:4])[C:5][C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12],-3.0464361628900005
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11]>>[H:1][C:2][O:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],1.41486459396
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.06254789504
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],6.1805592911800025
[C:1]=[C:2]([H:3])[O:4][C:5][C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:4][C:5][C:6](=[O:7])[H:8].[H:3],3.6019030916
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[H:9].[H:1][O:2],3.25583032177
[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.96248514394
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.86006657473
[O:1]=[C:2][C:5]([H:6])([H:7])[H:8].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-6.12398603143
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.28026115386
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]=[O:7],2.56509855673
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:4],4.82861828654
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7](=[O:8])[H:9]>>[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[C:7](=[O:8])[H:9],3.4710309193300004
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3][C:8][H:9],6.14014721043
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.32815120237
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],4.97041946924
[H:1][C:2][O:3][C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5],5.5542026226
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])([H:8])[H:9],4.11368699872
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-3.00805941757
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6],2.89637084038
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[O:1][C:2][C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9],0.375088908808
[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-8.11435057871
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],4.38135090617
[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.02767044874
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.79394820493
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7].[O:8][H:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9],-3.3833396172099994
